* Extracted by KLayout with SKY130 LVS runset on : 03/09/2026 04:28

.SUBCKT eeg_fd_ota_core_soft INN INP OUTN OUTP VBN VBP VCM_REF VCM_SENSE VDD18
+ VSS
M$1 VDD18 VBP OUTN VDD18 sky130_fd_pr__pfet_01v8 L=4 W=48 AS=16.62 AD=16.62
+ PS=59.54 PD=59.54
M$9 VDD18 VBP OUTP VDD18 sky130_fd_pr__pfet_01v8 L=4 W=48 AS=16.62 AD=16.62
+ PS=59.54 PD=59.54
M$17 VSS VBN \$74 VSS sky130_fd_pr__nfet_01v8 L=4 W=96 AS=28.62 AD=28.62
+ PS=111.54 PD=111.54
M$33 \$74 VSS OUTP VSS sky130_fd_pr__nfet_01v8 L=4 W=20 AS=19.9 AD=19.9
+ PS=33.98 PD=33.98
M$34 OUTP INP \$74 VSS sky130_fd_pr__nfet_01v8 L=4 W=240 AS=60 AD=60 PS=252
+ PD=252
M$35 \$74 INN OUTN VSS sky130_fd_pr__nfet_01v8 L=4 W=240 AS=60 AD=60 PS=252
+ PD=252
R$100 OUTP VCM_REF VSS sky130_fd_pr__res_xhigh_po_0p69 R=2000000 L=690 W=0.69
+ A=476.1 P=1407.6
R$149 VCM_SENSE OUTP VSS sky130_fd_pr__res_xhigh_po_0p69 R=5000000 L=1725
+ W=0.69 A=1190.25 P=3519
R$201 OUTN VCM_SENSE VSS sky130_fd_pr__res_xhigh_po_0p69 R=5000000 L=1725
+ W=0.69 A=1190.25 P=3519
R$219 OUTN VCM_REF VSS sky130_fd_pr__res_xhigh_po_0p69 R=2000000 L=690 W=0.69
+ A=476.1 P=1407.6
.ENDS eeg_fd_ota_core_soft
